US05691364
To 2,3,5,6-tetrafluoro-4-methylpyridine (0.71 g, 4.3 mmol) dissolved in acetonitrile (5 mL) was added 3-cyanophenol (0.5 g, 4.2 mmol) and cesium carbonate (1.44 g, 4.4 mmol). The reaction was heated in an oil bath at 45° C. for 16 hours and partitioned with ether and water. The organic layer was separated, washed with brine, dried (Na2SO4), and the solvent removed in vacuo. Chromatography on silica gel with methylene chloride/hexane (7/3) gave 3-[(3,5,6-trifluoro-4-methylpyridin-2-yl)oxy]benzonitrile; NMR (CDCl3) 7.55 (m,2), 7.45 (m,2), 2.24 (s,3) ppm.

reactant | 2,3,5,6-tetrafluoro-4-methylpyridine | 4.3 mmol, 0.71 g | FC1=NC(=C(C(=C1F)C)F)F | C6H3F4N
reactant | 3-cyanophenol | 4.2 mmol, 0.5 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | cesium carbonate | 4.4 mmol, 1.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[(3,5,6-trifluoro-4-methylpyridin-2-yl)oxy]benzonitrile | FC=1C(=NC(=C(C1C)F)F)OC=1C=C(C#N)C=CC1 | C13H7F3N2O
